US04716175
2-Methylhexadecanoic acid (27.0 g 0.1 mol) was mixed with 100 ml of thionyl chloride and the resulting mixture was stirred and heated under reflux for eight hours and then stirred at room temperature overnight. The mixture was concentrated under vacuum, diethyl ether was added and the mixture again concentrated under vacuum. The residue was distilled to yield 25.8 g of 2-methylhexadecanoyl chloride, bp 120-125° C. at 0.25 mm Hg.

reactant | 2-Methylhexadecanoic acid | 0.1 mol, 27.0 g | CC(C(=O)O)CCCCCCCCCCCCCC | C17H34O2
reactant | thionyl chloride | 100 ml | S(=O)(Cl)Cl | Cl2OS
product | 2-methylhexadecanoyl chloride | 25.8 g | CC(C(=O)Cl)CCCCCCCCCCCCCC | C17H33ClO
